US05969138
(2) Preparation of 1-(4-chlorophenyl)-3-(4-(3-methoxypropyl)piperazin-1-yl)methyl-2-pyrrolidinone
The title compound was prepared from 1-(4-chlorophenyl)-3-mesyloxymethyl-2-pyrrolidinone and 1-(3-methoxypropyl)piperazine, in the same manner as in Preparation Example 1(8).

reactant | 1-(4-chlorophenyl)-3-mesyloxymethyl-2-pyrrolidinone | ClC1=CC=C(C=C1)N1C(C(CC1)COS(=O)(=O)C)=O | C12H14ClNO4S
reactant | 1-(3-methoxypropyl)piperazine | COCCCN1CCNCC1 | C8H18N2O
product | 1-(4-chlorophenyl)-3-(4-(3-methoxypropyl)piperazin-1-yl)methyl-2-pyrrolidinone | ClC1=CC=C(C=C1)N1C(C(CC1)CN1CCN(CC1)CCCOC)=O | C19H28ClN3O2
